US08222249B2
A mixture of 2-methyl-4-nitrophenol (3.0 g, 19.6 mmol), TBS-Cl (3.0 g, 19.6 mmol), and TEA (2.2 g, 21.6 mmol) in DMF (30 mL) stirred at ambient temperature for 16 h. The mixture was partitioned between 10% aqueous sodium bicarbonate solution (100 mL) and ethyl acetate (100 mL), and the aqueous layer was extracted with ethyl acetate (100 mL). The combined organic layers were washed with 10% aqueous sodium bicarbonate (3×100 mL) and water (100 mL), and evaporated under vacuum. The residue was chromatographed in hexanes-ethyl acetate gradient, providing 3.9 g of tert-butyldimethyl(2-methyl-4-nitrophenoxy)silane, in 75% yield; 1H NMR (DMSO-d6) δ 0.29 (s, 6H), 1.00 (s, 9H), 2.24 (s, 3H), 7.03 (d, J=8.9 Hz, 1H), 8.02 (dd, J=2.8. 8.9 Hz, 1H), 8.12 (d, J=2.5 Hz, 1H).

reactant | 2-methyl-4-nitrophenol | 19.6 mmol, 3.0 g | CC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO3
reactant | TBS-Cl | 19.6 mmol, 3.0 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | tert-butyldimethyl(2-methyl-4-nitrophenoxy)silane | 3.9 g, 75% yield | C(C)(C)(C)[Si](OC1=C(C=C(C=C1)[N+](=O)[O-])C)(C)C | C13H21NO3Si
